US05238959
C. Preparation of N-{4-[1-phenyl-3-(dimethylamino)propoxy]phenyl}methanesulfonamide
A solution of 5.25 g of N,N-dimethyl-γ-(4-aminophenoxy)benzenepropanamine in 30 ml of pyridine cooled to 10° C. by means of an external ice bath was treated with 1.86 ml of methanesulfonylchloride under a nitrogen atmosphere. The ice bath was removed and the reaction mixture stirred at room temperature overnight. The solution was poured into 30 ml of water, treated with acid and evaporated in vacuo. The residue was purified by high pressure liquid chromatography over silica gel eluting with methylene chloride/methanol/ammonium hydroxide (100:5:1). The appropriate fractions were combined and concentrated in vacuo providing 4.15 g of an oil which crystallized upon cooling. Recrystallization from ethanol provided 2.5 g of the desired title product as off-white crystals, m.p. 145°-147° C.

reactant | N,N-dimethyl-γ-(4-aminophenoxy)benzenepropanamine | 5.25 g | CN(CCC(C1=CC=CC=C1)OC1=CC=C(C=C1)N)C | C17H22N2O
reactant | methanesulfonylchloride | 1.86 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | N-{4-[1-phenyl-3-(dimethylamino)propoxy]phenyl}methanesulfonamide | 4.15 g | C1(=CC=CC=C1)C(CCN(C)C)OC1=CC=C(C=C1)NS(=O)(=O)C | C18H24N2O3S
